US07678783B2
To a solution of 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoic acid (1 g, 4.7 mmol) in MeOH (10 mL) was added thionyl chloride (3.9 mL, 54 mmol) dropwise and the reaction mixture was heated to 60° C. for 48 h. Additional thionyl chloride (2 mL) was added and the reaction continued for 48 h. Quenching with H2O, concentration and trituration from MeCN gave methyl 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate. 1H NMR (400 MHz, CDCl3) δ 7.20 (m, 2H), 6.66 (m, 2H), 4.83-4.37 (ABX, J=46 Hz, J=8.8 Hz, 2H), 3.76 (s, 3H), 3.04 (d, J=13 Hz, 1H), 2.69 (d, J=13 Hz, 1H).

reactant | 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoic acid | 4.7 mmol, 1 g | NC(C(=O)O)(CC1=CC(=CC=C1)O)CF | C10H12FNO3
reactant | thionyl chloride | 54 mmol, 3.9 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | methyl 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate | NC(C(=O)OC)(CC1=CC(=CC=C1)O)CF | C11H14FNO3
